US05246958
2 ml of an aqueous sodium hydroxide (1.08 g) solution was added to a 10 ml solution of dimethylsulfoxide containing 1.0 g (6.6 mmole) of 4-chlorophenylacetonitrile and 1.3 g (6.6 mmole) of 1-bromo-3-phenylpropane at room temperature. After stirring for 2 hours under the same conditions, water was added to the reaction mixture and the mixture was extracted with 10 ml of n-hexane, dried, and condensed under reduced pressure to obtain 1.78 g (yield: quantitative) of 2-(4-chlorophenyl)-5-phenylvaleronitrile.

reactant | sodium hydroxide | 2 ml, 1.08 g | [OH-].[Na+]
reactant | dimethylsulfoxide | 6.6 mmole, 1.0 g | CS(=O)C | C2H6OS
reactant | 4-chlorophenylacetonitrile | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | 1-bromo-3-phenylpropane | 6.6 mmole, 1.3 g | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | water | O | H2O
product | 2-(4-chlorophenyl)-5-phenylvaleronitrile | 1.78 g, yield: quantitative | ClC1=CC=C(C=C1)C(C#N)CCCC1=CC=CC=C1 | C17H16ClN
